US08664401B2
Step B) (2R)-4-[4-(2,3-difluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
A solution of 1.0 M aqueous HCl (2.76 mL) was added slowly to a solution of (2R)-4-[4-(2,3-difluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (132 mg, 0.26 mmol) in 1,4-dioxane (15 mL) at room temperature. The reaction was allowed to stir at room temperature overnight. After 18 hours the reaction was concentrated to 25% of the original volume, resulting in a white precipitate. The precipitate was filtered via Buchner funnel and washed with hexanes (20 mL) to afford a white solid. Yield 45 mg, 41%. MS (APCI) m/z 431.1 (M+H). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.55 (s, 3H) 2.14 (td, J=12.20, 4.88 Hz, 1H) 2.35-2.45 (m, 1H) 3.08 (s, 3H) 3.72 (td, J=12.05, 4.78 Hz, 1H) 3.90 (s, 3H) 4.09 (td, J=11.90, 5.27 Hz, 1H) 6.46 (dt, J=7.02, 1.85 Hz, 1H) 6.54 (s, 1H) 7.03-7.17 (m, 1H) 7.37 (td, J=8.63, 2.24 Hz, 1H) 7.72 (d, J=7.22 Hz, 1H) 9.22 (br. s., 1H) 11.10 (s, 1H)

reactant | HCl | 1.0 M, 2.76 mL | Cl | ClH
reactant | (2R)-4-[4-(2,3-difluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.26 mmol, 132 mg | FC1=C(C=CC(=C1F)OC)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C23H28F2N2O7S
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (2R)-4-[4-(2,3-difluoro-4-methoxyphenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | FC1=C(C=CC(=C1F)OC)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C18H20F2N2O6S
